US07705053B2
Production of 3-N-(4-chloro-2-fluorophenyl)-4-methoxyisophthalamide (Compound 1-3-44)
The captioned compound was synthesized from 6-methoxyisophthalamic acid and 4-chloro-2-fluoroaniline by the same procedure as in the manufacturing method described in step C of Example 1-3-1.

reactant | 6-methoxyisophthalamic acid | COC1=CC=C(C=C1C(=O)O)C(=O)N | C9H9NO4
reactant | 4-chloro-2-fluoroaniline | ClC1=CC(=C(N)C=C1)F | C6H5ClFN
product | 3-N-(4-chloro-2-fluorophenyl)-4-methoxyisophthalamide | ClC1=CC(=C(C=C1)NC(C=1C=C(C(=O)N)C=CC1OC)=O)F | C15H12ClFN2O3
